US04082843
3-(4-chloro-3-hydroxybenzoyl)propionic acid was cyclised with hydrazine hydrate in a similar manner to that described in Example 3 (i) to give 6-(4-chloro-3-hydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone.

reactant | 3-(4-chloro-3-hydroxybenzoyl)propionic acid | ClC1=C(C=C(C(=O)CCC(=O)O)C=C1)O | C10H9ClO4
reactant | hydrazine hydrate | O.NN
product | 6-(4-chloro-3-hydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone | ClC1=C(C=C(C=C1)C=1CCC(NN1)=O)O | C10H9ClN2O2
